US04718936
62.6 g (0.439 mole) of thiophene-3-carbonyl chloride are added to a suspension of 19.7 g (0.146 mole) of adenine in 100 ml of dry pyridine. The mixture is refluxed for 10 hours, the pyridine is distilled off, the residue is taken up in chloroform, the solution is washed with dilute sodium bicarbonate solution and dried over sodium sulfate, and the solvent is then stripped off in a rotary evaporator. The solid residue is stirred repeatedly with cyclohexane and then recrystallized from ethanol and dried at about 40° C. under reduced pressure. 6-(3-Thenoylamino)-purine is obtained in a yield of 60%.

reactant | thiophene-3-carbonyl chloride | 0.439 mole, 62.6 g | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
reactant | adenine | 0.146 mole, 19.7 g | N1=CN=C2N=CNC2=C1N | C5H5N5
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-(3-Thenoylamino)-purine | yield of 60% | C1=C(C=CS1)C(=O)NC1=C2NC=NC2=NC=N1 | C10H7N5OS
